### ISSUE TITLE
Verify: sub

### ISSUE THREAD

**Issue by oliver-butterley** [Beneficial-AI-Foundation/curve25519-dalek-lean-verify#118]
curve25519_dalek::backend::serial::u64::field::FieldElement51::sub

**Comment by truonghoangle** [comment]
Claiming this issue. I’ll start working on the proof.

**Comment by oliver-butterley** [comment]
I noticed that the tactic `progress` is not functioning correctly in this case. I'll try to understand why soon. For the moment we can do it manually with the following framework:

```lean
theorem sub_spec (a b : Array U64 5#usize)
    (h_bounds_a : ∀ i, i < 5 → (a[i]!).val ≤ 2 ^ 63)
    (h_bounds_b : ∀ i, i < 5 → (b[i]!).val ≤ 2 ^ 54) :
    ∃ c, sub a b = ok c ∧
    (Field51_as_Nat c + Field51_as_Nat b) % p = Field51_as_Nat a % p := by

  unfold sub
  set k := 36028797018963664#u64 with hk
  set j := 36028797018963952#u64 with hj

  -- Limb 0
  have : 0#usize < a.length := by
    sorry
  obtain ⟨a0, ha0_ok⟩ := Array.index_usize_spec a 0#usize this
  simp only [ha0_ok, bind_tc_ok, UScalar.ofNat_val_eq]
  generalize ha0 : (a.val)[0]! = a0

  have ha0_bound : a0.val + k.val ≤ U64.max := by
    sorry
  obtain ⟨a0', ha0'_ok, ha0'_val⟩ := U64.add_spec ha0_bound
  simp only [ha0'_ok, bind_tc_ok]

  have : 0#usize < b.length := by
    sorry
  obtain ⟨b0, hb0_ok⟩ := Array.index_usize_spec b 0#usize this
  simp only [hb0_ok, bind_tc_ok, UScalar.ofNat_val_eq]
  generalize hb0 : (b.val)[0]! = b0

  have ha0'_sub_bound : b0 ≤ a0'.val := by
    sorry
  obtain ⟨i3, hi3_ok, hi3_val, hi3_val'⟩ := U64.sub_spec ha0'_sub_bound
  simp only [hi3_ok, bind_tc_ok]

  -- Limb 1
  have : 1#usize < a.length := by
    sorry
  obtain ⟨a1, ha1_ok⟩ := Array.index_usize_spec a 1#usize this
  simp only [ha1_ok, bind_tc_ok, UScalar.ofNat_val_eq]
  generalize ha1 : (a.val)[1]! = a1

  have ha1_bound : a1.val + j.val ≤ U64.max := by
    sorry
  obtain ⟨a1', ha1'_ok, ha1'_val⟩ := U64.add_spec ha1_bound
  simp only [ha1'_ok, bind_tc_ok]

  have : 1#usize < b.length := by
    sorry
  obtain ⟨b1, hb1_ok⟩ := Array.index_usize_spec b 1#usize this
  simp only [hb1_ok, bind_tc_ok, UScalar.ofNat_val_eq]
  generalize hb1 : (b.val)[1]! = b1

  have ha1'_sub_bound : b1 ≤ a1'.val := by
    sorry
  obtain ⟨i7, hi7_ok, hi7_val, hi7_val'⟩ := U64.sub_spec ha1'_sub_bound
  simp only [hi7_ok, bind_tc_ok]

  -- Limb 2
  have : 2#usize < a.length := by
    sorry
  obtain ⟨a2, ha2_ok⟩ := Array.index_usize_spec a 2#usize this
  simp only [ha2_ok, bind_tc_ok, UScalar.ofNat_val_eq]
  generalize ha2 : (a.val)[2]! = a2

  have ha2_bound : a2.val + j.val ≤ U64.max := by
    sorry
  obtain ⟨a2', ha2'_ok, ha2'_val⟩ := U64.add_spec ha2_bound
  simp only [ha2'_ok, bind_tc_ok]

  have : 2#usize < b.length := by
    sorry
  obtain ⟨b2, hb2_ok⟩ := Array.index_usize_spec b 2#usize this
  simp only [hb2_ok, bind_tc_ok, UScalar.ofNat_val_eq]
  generalize hb2 : (b.val)[2]! = b2

  have ha2'_sub_bound : b2 ≤ a2'.val := by
    sorry
  obtain ⟨i11, hi11_ok, hi11_val, hi11_val'⟩ := U64.sub_spec ha2'_sub_bound
  simp only [hi11_ok, bind_tc_ok]

  -- Limb 3
  have : 3#usize < a.length := by
    sorry
  obtain ⟨a3, ha3_ok⟩ := Array.index_usize_spec a 3#usize this
  simp only [ha3_ok, bind_tc_ok, UScalar.ofNat_val_eq]
  generalize ha3 : (a.val)[3]! = a3

  have ha3_bound : a3.val + j.val ≤ U64.max := by
    sorry
  obtain ⟨a3', ha3'_ok, ha3'_val⟩ := U64.add_spec ha3_bound
  simp only [ha3'_ok, bind_tc_ok]

  have : 3#usize < b.length := by
    sorry
  obtain ⟨b3, hb3_ok⟩ := Array.index_usize_spec b 3#usize this
  simp only [hb3_ok, bind_tc_ok, UScalar.ofNat_val_eq]
  generalize hb3 : (b.val)[3]! = b3

  have ha3'_sub_bound : b3 ≤ a3'.val := by
    sorry
  obtain ⟨i15, hi15_ok, hi15_val, hi15_val'⟩ := U64.sub_spec ha3'_sub_bound
  simp only [hi15_ok, bind_tc_ok]

  -- Limb 4
  have : 4#usize < a.length := by
    sorry
  obtain ⟨a4, ha4_ok⟩ := Array.index_usize_spec a 4#usize this
  simp only [ha4_ok, bind_tc_ok, UScalar.ofNat_val_eq]
  generalize ha4 : (a.val)[4]! = a4

  have ha4_bound : a4.val + j.val ≤ U64.max := by
    sorry
  obtain ⟨a4', ha4'_ok, ha4'_val⟩ := U64.add_spec ha4_bound
  simp only [ha4'_ok, bind_tc_ok]

  have : 4#usize < b.length := by
    sorry
  obtain ⟨b4, hb4_ok⟩ := Array.index_usize_spec b 4#usize this
  simp only [hb4_ok, bind_tc_ok, UScalar.ofNat_val_eq]
  generalize hb4 : (b.val)[4]! = b4

  have ha4'_sub_bound : b4 ≤ a4'.val := by
    sorry
  obtain ⟨i19, hi19_ok, hi19_val, hi19_val'⟩ := U64.sub_spec ha4'_sub_bound
  simp only [hi19_ok, bind_tc_ok]

  -- Handle the reduce call
  obtain ⟨result, hreduce_ok, hreduce_bounds, hreduce_eq⟩ :=
    reduce_spec (Array.make 5#usize [i3, i7, i11, i15, i19])
  simp only [hreduce_ok, ok.injEq, exists_eq_left']

  -- Prove the modular arithmetic property
  sorry
```

It's long but only because it is the same pattern repeated 5 times. Normally the `progress*` tactic can handle this automatically. Try to complete the proof, replacing each sorry with a valid argument. 

If you have any more queries, it could be convenient to open a draft PR to make the discussion easier.
